US07259262B2
A solution of 1.36 g (5.0 mmol) 1-[2-(4-methoxy-phenyl)-thiazol-4-ylmethyl]-1H-[1,2,3]triazole in 100 ml 47% aqueous hydrobromic acid was stirred at 70° C. for 6 h. The reaction mixture was poured on ice, made basic with concentrated ammonia and extracted with ethyl acetate to yield 0.87 g raw product. This was purified on silica. Elution with ethyl acetate/heptane 1:1 furnished 287 mg (22%) 4-(4-[1,2,3]triazol-1-ylmethyl-thiazol-2-yl) -phenol as white crystals, melting at 164-166° C.

reactant | 1-[2-(4-methoxy-phenyl)-thiazol-4-ylmethyl]-1H-[1,2,3]triazole | 5.0 mmol, 1.36 g | COC1=CC=C(C=C1)C=1SC=C(N1)CN1N=NC=C1 | C13H12N4OS
reactant | ammonia | N | H3N
solvent | hydrobromic acid | 100 ml | Br | BrH
product | 4-(4-[1,2,3]triazol-1-ylmethyl-thiazol-2-yl) -phenol | 287 mg, 22% | N1(N=NC=C1)CC=1N=C(SC1)C1=CC=C(C=C1)O | C12H10N4OS
